* POGO OTA-C SVF — §C OTA tap DC-offset + f_ref (change 0020; runner-ready 0022)
* (1) §C/H5: tapping the state variable from the LM13700 Darlington buffer injects a
*     temp-dependent ~2·Vbe (~1.26V) DC offset into the next OTA's ±30mV input; the
*     unbuffered tap (the fix) injects 0. (2) the gm-C integrator corner = f_ref (632Hz).
* Idealized parts capture the load-bearing physics (no LM13700 SPICE model in-env).
* Applies to block-8 (block-5) and mirrored in HP (block-7) / LP2 (block-8).

.param VT=0.02585
.param Iabc=9.69u
.param gm={Iabc/(2*VT)}    ; ~187 uS at the trim target
.param C=47n               ; C0G integrator cap
.param Vbe=0.63            ; Darlington = 2*Vbe

* --- (1) state-variable tap DC offset ---
Vcap ncap 0 DC 1.0
Bdar nbuf 0 V = V(ncap) - 2*Vbe   ; buggy Darlington-buffer tap
Bfix nfix 0 V = V(ncap)           ; §C fix: unbuffered tap

* --- (2) gm-C integrator as a 1st-order LP; corner = gm/(2*pi*C) ---
Vac ain 0 AC 1 DC 0
Gint 0 ointg ain ointg {gm}
Cint ointg 0 {C}

.control
  op
  let offset_buggy = v(ncap) - v(nbuf)   ; ~1.26 V (the H5 bug)
  let offset_fixed = v(ncap) - v(nfix)   ; 0 V (the §C fix)
  print offset_buggy offset_fixed
  ac dec 50 10 100k
  meas ac fref_hz when vdb(ointg)=-3.01
.endc
.end
